US05175177
b) 5-{3-[2,6-Dimethyl-4-(5-methyl-1,2,4-oxadiazol-3-yl)phenoxy]propyl}-3-trifluoromethylisoxazole (I; R1 =CF3, R2 and R3 =2,6-(CH3)2, R4 =CH3, Y=(CH2)3)
To 479 mg of 3-{3,5-dimethyl-4-[3-(trifluoroacetylethinyl)propoxy]phenyl}-5-methyl-1,2,4-oxadiazole from part (a) above and 509 mg hydroxylamine hydrochloride in 10 mls of acetic acid at ambient room temperature was added with stirring 1 ml 1M hydrochloric acid. After twenty hours an additional 1 ml 1M aqueous hydrochloric acid and 1.00 g hydroxylamine hydrochloride were added and stirring was continued for five days. The reaction mixture was poured into 200 mls water and extracted with ethyl ether. The ethyl ether extracts were washed with water, dried (Na2SO4) and concentrated. A solution of the residue (470 mg) in benzene was heated at reflux overnight, cooled, diluted with methylene chloride, washed with aqueous 1.5M potassium bicarbonate and water, filtered through silica gel and concentrated. The oily residue was subjected to preparative TLC (silica gel; methylene dichloride) to yield 92 mg of the title compound, m.p. 62°-64.5° C.

reactant | 3-{3,5-dimethyl-4-[3-(trifluoroacetylethinyl)propoxy]phenyl}-5-methyl-1,2,4-oxadiazole | 479 mg | CC=1C=C(C=C(C1OCCCC#CC(C(F)(F)F)=O)C)C1=NOC(=N1)C | C18H17F3N2O3
reactant | hydroxylamine hydrochloride | 509 mg | Cl.NO
reactant | hydrochloric acid | 1M, 1 ml | Cl | ClH
reactant | hydrochloric acid | 1M, 1 ml | Cl | ClH
reactant | hydroxylamine hydrochloride | 1.00 g | Cl.NO
reactant | water | 200 mls | O | H2O
solvent | acetic acid | 10 mls | C(C)(=O)O | C2H4O2
product | 5-{3-[2,6-Dimethyl-4-(5-methyl-1,2,4-oxadiazol-3-yl)phenoxy]propyl}-3-trifluoromethylisoxazole | 92 mg | CC1=C(OCCCC2=CC(=NO2)C(F)(F)F)C(=CC(=C1)C1=NOC(=N1)C)C | C18H18F3N3O3
